US07563815B2
Step A. N-(3,5-Dichlorophenyl)-1-methyl-1H-benzimidazol-2-amine
To a solution of 3,5-dichloroaniline (6.2 mmol, 1.0 g) and DIEA (6.8 mmol, 1.2 mL) in 10 mL of DCM was slowly added thiophosgene (6.2 mmol, 472 μL) (exothermic). After 30 min, N-methyl-1,2-phenylenediamine (6.2 mmol, 704 μL) was added and the reaction mixture was allowed to stand at ambient temperature for 1 h. MeI (6.2 mmol, 386 μL), followed by DIEA (6.8 mmol, 1.2 mL) were then added, and the reaction mixture was allowed to stand at ambient temperature overnight. The crude reaction was partitioned between DCM/brine. The organic layer was collected and the aqueous phase was extracted twice with DCM. The combined organic layer was concentrated under reduced pressure, and the residue was purified by flash chromatography on silica eluting with 2% MeOH/DCM and 4% MeOH/DCM, affording the product as a tan solid. 1H NMR (500 MHz, d6-DMSO) δ 9.35 (s, 1H), 8.04 (s, 2H), 7.48 (m, 2H), 7.36 (m, 2H), 7.08-7.14 (overlapping m, 2H), 3.73 (s, 3H). MS (ESI): m/z 292 (M+H). HPLC A: 1.38 min.

reactant | 3,5-dichloroaniline | 6.2 mmol, 1.0 g | ClC=1C=C(N)C=C(C1)Cl | C6H5Cl2N
reactant | DIEA | 6.8 mmol, 1.2 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | thiophosgene | 6.2 mmol, 472 μL | C(=S)(Cl)Cl | CCl2S
reactant | N-methyl-1,2-phenylenediamine | 6.2 mmol, 704 μL | CNC1=C(C=CC=C1)N | C7H10N2
reactant | MeI | 6.2 mmol, 386 μL | CI | CH3I
reactant | DIEA | 6.8 mmol, 1.2 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
product | N-(3,5-Dichlorophenyl)-1-methyl-1H-benzimidazol-2-amine | ClC=1C=C(C=C(C1)Cl)NC1=NC2=C(N1C)C=CC=C2 | C14H11Cl2N3
